US06936612B2
4-[6-(8-Cyclopentyl-6-ethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester was prepared by addition of 8-cyclopentyl-6-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.80 g, 2.62 mmol) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.82 g, 6.55 mmol) to toluene (10 ml) followed by heating to 105° C. over 10 hours. The resulting suspension was filtered, the solid washed with toluene and dried in vacuo yielding 4-[6-(8-Cyclopentyl-6-ethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester as a solid (0.204 g). MS (APCI); M++1; Calc'd 520.3. Found 520.1.

reactant | 8-cyclopentyl-6-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.62 mmol, 0.80 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)CC)=O | C15H19N3O2S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 6.55 mmol, 1.82 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(8-Cyclopentyl-6-ethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.204 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)CC)=O)C2CCCC2 | C28H37N7O3
